US05280026
2-(4-Methoxy-2-methylphenylamino)-4-(N-methylphenylamino)thieno[3,2-d]pyrimidine hydrochloride.
2-(4-Methoxy-2-methylphenylamino)-4-chlorothieno[3,2-d]pyrimidine (4 g, 0.013 mol) and N-methylaniline (2.8 g, 0.026 mol) were heated at 140° for 1 hour. The addition of diethyl ether gave a solid which was collected by filtration and dried, (5.5 g). Recrystallization from ethanol/diethyl ether gave the title compound, (4.59 g), m.p. 225°-227°.

reactant | 2-(4-Methoxy-2-methylphenylamino)-4-chlorothieno[3,2-d]pyrimidine | 0.013 mol, 4 g | COC1=CC(=C(C=C1)NC=1N=C(C2=C(N1)C=CS2)Cl)C | C14H12ClN3OS
reactant | N-methylaniline | 0.026 mol, 2.8 g | CNC1=CC=CC=C1 | C7H9N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-Methoxy-2-methylphenylamino)-4-(N-methylphenylamino)thieno[3,2-d]pyrimidine hydrochloride | 4.59 g | Cl.COC1=CC(=C(C=C1)NC=1N=C(C2=C(N1)C=CS2)N(C)C2=CC=CC=C2)C | InChI=1S/C21H20N4OS.ClH/c1-14-13-16(26-3)9-10-17(14)22-21-23-18-11-12-27-19(18)20(24-21)25(2)15-7-5-4-6-8-15;/h4-13H,1-3H3,(H,22,23,24);1H
